US06046214
1,1'-Carbonyldiimidazole (4 g, 24.7 mmol) in methylene chloride (100 ml) was added dropwise to a solution of 1-tert-butoxycarbonyl-1,2,3,6-tetrahydropyridine-3-carboxylic acid (5 g, 22 mmol) in methylene chloride (200 ml) under a nitrogen atmosphere. Stirring was continued for 1 h followed by addition of methanol (300 ml), and reflux for 26 h. 10% aqueous citric acid (100 ml) was added and the mixture extracted with methylene chloride. The organic layer was dried over magnesium sulphate, evaporated to dryness in vacuo and purified on a silica gel column (Eluent: methylene chloride/methanol (90/1)) to give methyl 1-tert-butoxycarbonyl-1,2,3,6-tetrahydropyridine-3-carboxylate as yellow oil. (Yield: 3.9 g, 73%)

reactant | 1,1'-Carbonyldiimidazole | 24.7 mmol, 4 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-tert-butoxycarbonyl-1,2,3,6-tetrahydropyridine-3-carboxylic acid | 22 mmol, 5 g | C(C)(C)(C)OC(=O)N1CC(C=CC1)C(=O)O | C11H17NO4
reactant | methanol | 300 ml | CO | CH4O
reactant | citric acid | 100 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | methyl 1-tert-butoxycarbonyl-1,2,3,6-tetrahydropyridine-3-carboxylate | C(C)(C)(C)OC(=O)N1CC(C=CC1)C(=O)OC | C12H19NO4
